US04064236
To a mixture of 50 ml of 12.5% phosgene in benzene and 50 ml of tetrahydrofuran which has been cooled to 0° to +5° is added slowly a mixture of 0.05 mole of ethyl lactyllactate and 0.05 mole of triethylamine in 50 of tetrahydrofuran. The above reaction mixture is stirred at 0° to +5° for 2 hours and is then added dropwise to a mixture of 3 gm of methylhydrazine and 0.05 moles of triethylamine in 50 ml of tetrahydrofuran which has been cooled to 0° to +5°. After stirring for 3 hours the reaction mixture is filtered to remove triethylamine hydrochloride. The filtrate is then concentrated in vacuo to give 13.6 gm of crude product. Chromatography on 700 gm of silica gel and elution with methanol/methylene chloride give 6.9 gm of 2-azaalanyllactyllactic acid ethyl ester.

reactant | phosgene | 50 ml | C(=O)(Cl)Cl | CCl2O
reactant | ethyl lactyllactate | 0.05 mole | C(C(O)C)(=O)C(C(=O)OCC)(O)C | C8H14O5
reactant | triethylamine | 0.05 mole | C(C)N(CC)CC | C6H15N
reactant | methylhydrazine | 3 gm | CNN | CH6N2
reactant | triethylamine | 0.05 moles | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-azaalanyllactyllactic acid ethyl ester | 6.9 gm | C(C)OC(C(O)(CC(N(N)C)=O)C(C(O)C)=O)=O | C10H18N2O6
